US07888374B2
N-(4-amino-5-cyano-6-ethoxypyridin-2-yl)-2-(3-methoxyphenyl)acetamide
To a solution of 28 mg (0.17 mmol) of (3-methoxyphenyl)acetic acid in 0.5 mL of CH2Cl2 (or the minimum amount necessary for dissolution) was added 20 μL (0.22 mmol) of oxalyl chloride. The solution was swirled, allowed to stand for 5 minutes at ambient temperature, then added to a solution of 30 mg (0.14 mmol) of 4,6-diamino-2-ethoxy-nicotinonitrile in 0.5 mL of pyridine. The mixture was shaken for 15 minutes, diluted with 1 mL of water and concentrated under reduced pressure. The residue was taken up in 3 mL of ethyl acetate, and extracted with water (2×1 mL), 1M HCl(aq.) (1×1 mL), saturated NaHCO3(aq.) (2×1 mL), and brine (1×1 mL), dried over MgSO4, filtered, and concentrated to a solid. This was recrystallized from 1 mL of methanol to provide 9 mg (16%) of a colorless solid. 1H NMR (300 MHz, d6-DMSO) 610.28 (s, 1H), 7.22 (m, 1H), 7.16 (m, 1H), 6.89 (m, 4H), 6.81 (m, 1H), 4.34 (q, 2H, J=7.1 Hz), 3.74 (s, 3H), 3.67 (s, 2H), 1.31 (t, 3H, J=7.1 Hz); MS (ESI) m/e=299 (M−Et+H)+, 327 (M+H)+, 349 (M+Na)+.

reactant | (3-methoxyphenyl)acetic acid | 0.17 mmol, 28 mg | COC=1C=C(C=CC1)CC(=O)O | C9H10O3
reactant | oxalyl chloride | 0.22 mmol, 20 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4,6-diamino-2-ethoxy-nicotinonitrile | 0.14 mmol, 30 mg | NC1=CC(=NC(=C1C#N)OCC)N | C8H10N4O
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 1 mL | O | H2O
product | N-(4-amino-5-cyano-6-ethoxypyridin-2-yl)-2-(3-methoxyphenyl)acetamide | 9 mg, 16% | NC1=CC(=NC(=C1C#N)OCC)NC(CC1=CC(=CC=C1)OC)=O | C17H18N4O3
